* C:\Users\Nico trombetta\Documents\UTN\TC2\TeoriaDeCircuitos2\TPs_Semanal\filtroPB.asc
* Generated by LTspice 24.1.6 for Windows.
V1 N001 0 AC 1
X§U1 N002 N003 +Vcc -Vcc N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 N004 N005 +Vcc -Vcc N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§Sallen-Key +Vcc -Vcc N001 N002 Sallen-Key
X§KHN +Vcc -Vcc N003 N004 KHN
X§MultFedback N005 N006 +Vcc -Vcc MultipleFeedback
V2 +Vcc 0 12
V3 0 -Vcc 12

* block symbol definitions
.subckt Sallen-Key +Vcc -Vcc Vi Vo
X§U1 N002 N003 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 Vi 1
R2 N002 N001 1
C1 N002 0 1
R4 Vo N003 1
C2 Vo N001 {2*Q1}
.param Q1 0.5176
.ends Sallen-Key

.subckt KHN +Vcc -Vcc Vi Vo
R1 N001 Vi 0.3162
R2 Vo N001 1
R3 N002 N001 {2*Q2/(4.163-Q2)}
R4 N003 N002 1
C1 N004 N003 {(4.163-Q2)/(2*Q2)}
R5 N005 N004 1
C2 Vo N005 1
X§U1 N006 N001 +Vcc -Vcc N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 0 N003 +Vcc -Vcc N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 0 N005 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N006 0 1
R7 N004 N006 1
.param Q2 0.707
.ends KHN

.subckt MultipleFeedback Vi Vo +Vcc -Vcc
X§U1 0 N002 +Vcc -Vcc Vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 Vi 1
R2 N002 N001 1
R1 Vo N001 1
C1 N001 0 {3*Q3}
C2 Vo N002 {1/(3*Q3)}
.param Q3 1.932
.ends MultipleFeedback

.ac dec 1000 1m 100
.lib UniversalOpAmp1.lib
.backanno
.end
